US09359286B2
Intermediate 2C: (3R)-1-Amino-3-(4-bromophenyl)cyclopentanecarboxylic acid
A solution of (7R)-7-(4-bromophenyl)-1,3-diazaspiro[4.4]nonane-2,4-dione (I-2B, 6.80 g, 22 mmol) in dioxane (20 mL) and NaOH (2N aq) (120 mL, 240 mmol) was heated in an oil bath set to 95° C. The resulting clear, pale yellow solution was left to stir over the weekend. The solution was cooled in an ice bath and neutralized to approximately pH 7 with 6 N HCl resulting in the formation of a precipitate. The solids were collected and left to air dry overnight. The white solid was slurried in hot ethanol (˜100 mL) and re-collected by filtration and the solid was air-dried then placed under high vacuum. (5.8 g, 20.41 mmol). HPLC retention time=0.64 min (Condition G); LC/MS M+1=284/286. 1H NMR (500 MHz, methanol-d4) δ 7.52-7.38 (m, 2H), 7.31-7.17 (m, 2H), 3.55-3.40 (m, 1H), 2.68 (dd, J=13.3, 6.7 Hz, 1H from single diastereomer), 2.58-2.39 (m, 1H), 2.26-2.15 (m, 1H), 2.10-1.98 (m, 1H), 1.98-1.81 (m, 1H), 1.70 (dd, J=13.2, 11.8 Hz, 1H from single diastereomer).

reactant | (7R)-7-(4-bromophenyl)-1,3-diazaspiro[4.4]nonane-2,4-dione | 22 mmol, 6.80 g | BrC1=CC=C(C=C1)[C@H]1CC2(C(NC(N2)=O)=O)CC1 | C13H13BrN2O2
reactant | NaOH | 240 mmol, 2N, 120 mL | [OH-].[Na+]
reactant | HCl | 6 N | Cl | ClH
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | (3R)-1-Amino-3-(4-bromophenyl)cyclopentanecarboxylic acid | NC1(C[C@@H](CC1)C1=CC=C(C=C1)Br)C(=O)O | C12H14BrNO2
